US06211242B1
To an ice bath cooled solution of (4-carboxybutyl)triphenylphosphonium bromide (371 mg) in N,N-dimethylacetamide (15 ml) was added potassium t-butoxide (188 mg) and the mixture was stirred at the same temperature for 30 minutes. To the resulting mixture was added 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-formylphenyl)benzamide (250 mg) and the mixture was stirred in an ice bath for 3 hours. The mixture was diluted with ethyl acetate (40 ml) and the solution was washed successively with 1N hydrochloric acid (30 ml), water (20 ml) and brine (20 ml). The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The crude oil was purified by silica gel column (1% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxypenten-1-yl)phenyl]benzamide (201 mg) as a colorless amorphous.

reactant | (4-carboxybutyl)triphenylphosphonium bromide | 371 mg | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 188 mg | CC(C)([O-])C.[K+]
reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-formylphenyl)benzamide | 250 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C=O)C)C=C1 | C29H24N2O3
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxypenten-1-yl)phenyl]benzamide | 201 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C=CCCCC(=O)O)C)C=C1 | C34H32N2O4
